US04753946
1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester
The solution containing m-nitrobenzaldehyde (7.55 g, 50.0 mmoles), ethyl-acetoacetate (6.5 g, 50.0 mmoles) and thiourea (3.8 g, 50.0 mmoles) in absolute ethanol (30 ml) was treated with concentrated hydrochloric acid (0.2 ml). The resulting reaction mixture was heated at reflux for 6 hours. It was then cooled to room temperature and triturated. A small amount of a white solid precipitated out. The reaction flask was then allowed to cool in the refrigerator overnight. The precipitate formed was filtered off and washed with more absolute ethanol to provide colorless solid (2.5 g). For analytical purposes, this material was recrystallized from absolute ethanol to give colorless crystals, m.p. 208°-209° C.

reactant | m-nitrobenzaldehyde | 50.0 mmoles, 7.55 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl-acetoacetate | 50.0 mmoles, 6.5 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | thiourea | 50.0 mmoles, 3.8 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,2,3,4-Tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester | 2.5 g | CC1=C(C(NC(N1)=S)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C14H15N3O4S
